US05166204
Using N-phenyl-4-oxocyclohexane-1,2-dicarboximide instead of the N-benzyl-4-oxocyclohexane-1,2-dicarboximide and using 4-methoxy-2-methylphenyl-hydrazine hydrochloride instead of the phenylhydrazine, the same procedure as in Reference Example 1 (1) was repeated, to obtain N-phenyl-6-methoxy-8-methyl-1,2,3,4-tetrahydrocarbazole-3,4-dicarboximide.

reactant | N-phenyl-4-oxocyclohexane-1,2-dicarboximide | C1(=CC=CC=C1)N1C(=O)C2C(CC(CC2)=O)C1=O | C14H13NO3
reactant | 4-methoxy-2-methylphenyl-hydrazine hydrochloride | Cl.COC1=CC(=C(C=C1)NN)C
product | N-phenyl-6-methoxy-8-methyl-1,2,3,4-tetrahydrocarbazole-3,4-dicarboximide | C1(=CC=CC=C1)N1C(=O)C2CCC=3NC4=C(C=C(C=C4C3C2C1=O)OC)C | C22H20N2O3
